US04237127
(a) N,N'-bis(2-chlorobenzoyl)hydrazine
A stirred solution of hydrazine hydrate (25 g) in water (500 ml) was treated dropwise and simultaneously with sodium hydroxide (43.6 g) in water (150 ml) and 2-chlorobenzoyl chloride (180.25 g). The addition over the mixture was stirred at room temperature for 2 hours. The solid was filtered off, washed with acetone/water 1:1 and recrystallised from acetic acid. Yield 97.5 g, m.p. 217°-219°.

reactant | hydrazine hydrate | 25 g | O.NN
reactant | sodium hydroxide | 43.6 g | [OH-].[Na+]
reactant | 2-chlorobenzoyl chloride | 180.25 g | ClC1=C(C(=O)Cl)C=CC=C1 | C7H4Cl2O
solvent | water | 500 ml | O | H2O
solvent | water | 150 ml | O | H2O
product | N,N'-bis(2-chlorobenzoyl)hydrazine | ClC1=C(C(=O)NNC(C2=C(C=CC=C2)Cl)=O)C=CC=C1 | C14H10Cl2N2O2
